US06559145B2
Ethyl 6-Chloro-1-methyl-4-oxo-1,4-dihydro[1,5]naphthyridine-3-carboxylate [I.4, Y=chloro].
A mixture of ethyl 6-chloro-4-hydroxy[1,5]naphthyridine-3-carboxylate (Preparation 58, 694 mg), potassium carbonate (588 mg), and iodomethane (264 μL) in DMF (15 mL) is stirred at room temperature for 5 hours. The mixture is poured into water (50 mL), and the solution is extracted with CH2Cl2 (3×50 mL). The organic layers are dried (MgSO4) and concentrated. Trituration with ether (50 mL) affords 473 mg (65%) of the title compound as an off-white solid. Physical Characteristics. 1H NMR (DMSO-d6) δ 8.70, 8.31, 7.90, 4.24, 3.92, 1.29; HRMS (FAB) m/z 267.0535 (C12H11ClN2O3+H). Anal. Found: C, 54.14; H, 4.24; N, 10.58.

reactant | ethyl 6-chloro-4-hydroxy[1,5]naphthyridine-3-carboxylate | 694 mg | ClC=1N=C2C(=C(C=NC2=CC1)C(=O)OCC)O | C11H9ClN2O3
reactant | potassium carbonate | 588 mg | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 264 μL | IC | CH3I
reactant | water | 50 mL | O | H2O
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | Ethyl 6-Chloro-1-methyl-4-oxo-1,4-dihydro[1,5]naphthyridine-3-carboxylate | 473 mg, 65% | ClC=1N=C2C(C(=CN(C2=CC1)C)C(=O)OCC)=O | C12H11ClN2O3
